US08530470B2
Diacetoxypalladium (4.58 mg, 0.02 mmol) was added to a stirred mixture of methyl 2-((R)-2-methylmorpholino)-4-oxo-8-(pyrrolidin-2-yl)-4H-chromene-6-carboxylate (190 mg, 0.51 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (25.09 mg, 0.04 mmol), 1-bromo-3,5-difluorobenzene (73.4 μl, 0.64 mmol) and cesium carbonate (249 mg, 0.77 mmol) suspended in 1,4-dioxane (5 mL). The resulting suspension was degassed with argon and then stirred at 100° C. for 20 h. The reaction mixture was allowed to cool to room temperature, the insoluble were removed by filtration and the filtrate concentrated. The crude product was adsorbed on silica gel and purified by flash chromatography on silica gel eluting with 0 to 6% MeOH in EtAc. The solvent was evaporated to dryness to afford methyl 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate (150 mg, 61%) as a beige foam.

reactant | methyl 2-((R)-2-methylmorpholino)-4-oxo-8-(pyrrolidin-2-yl)-4H-chromene-6-carboxylate | 0.51 mmol, 190 mg | C[C@H]1OCCN(C1)C=1OC2=C(C=C(C=C2C(C1)=O)C(=O)OC)C1NCCC1 | C20H24N2O5
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.04 mmol, 25.09 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 1-bromo-3,5-difluorobenzene | 0.64 mmol, 73.4 μl | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | cesium carbonate | 0.77 mmol, 249 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Diacetoxypalladium | 0.02 mmol, 4.58 mg | C(C)(=O)O[Pd]OC(C)=O
product | methyl 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate | 150 mg, 61% | FC=1C=C(C=C(C1)F)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)OC | C26H26F2N2O5
